### PR TITLE
[Merged by Bors] - refactor(Analysis/InnerProductSpace/Positive): changing positivity on linear maps to use `IsSymmetric` instead of `IsSelfAdjoint` and finite-dimensionality

### PR DESCRIPTION
**Pull request by themathqueen**
With this definition, the partial order would be defined on linear maps without needing finite-dimensionality.

Also, when continuous linear maps are positive, then so are their coercions into linear maps, again, without needing finite-dimensionality. Moving the definition of positivity for linear maps before the one for continuous linear maps allows us to use results already done in linear maps for continuous linear maps. There's no need to have duplicate proofs.

In essenece:
- This changes the definition of `LinearMap.IsPositive` to `IsSymmetric T` instead of `IsSelfAdjoint T` and removes the finite-dimensional hypothesis.
- This changes the order of the whole file: starting with linear maps and ending with continuous linear maps, instead of the other way around.
- Adds `LinearMap.IsSymmetric.natCast`.
- Adds `LinearMap.IsIdempotentElem.isPositive_iff_isSymmetric`, which is then used to golf `ContinuousLinearMap.IsIdempotentElem.isPositive_iff_isSelfAdjoint` (note the change of order for `isPositive_iff_isSelfAdjoint` and `IsPositive.of_isStarProjection`).
- Final addition: `ContinuousLinearMap.coe_le_coe_iff` which just says `f.toLinearMap ≤ g.toLinearMap` iff `f ≤ g`.
- There are two results (`LinearMap.IsPositive.conj_adjoint` and `LinearMap.IsPositive.adjoint_conj`) which are in the middle of the `ContinuousLinearMap` namespace. The reason for this is to utilize the proofs already done for continuous maps instead of having duplicate proofs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 1]
```diff
@@ -46,6 +46,145 @@ variable [InnerProductSpace 𝕜 E] [InnerProductSpace 𝕜 F]
...
+open ComplexOrder in
+theorem isPositive_iff (T : E →ₗ[𝕜] E) :
+    IsPositive T ↔ IsSymmetric T ∧ ∀ x, 0 ≤ ⟪T x, x⟫ := by
+  simp_rw [IsPositive, and_congr_right_iff, ← RCLike.ofReal_nonneg (K := 𝕜)]
+  intro hT
+  simp [hT]
+
+open ComplexOrder in
+theorem IsPositive.inner_nonneg_left {T : E →ₗ[𝕜] E} (hT : IsPositive T) (x : E) : 0 ≤ ⟪T x, x⟫ :=
+  ((isPositive_iff T).mp hT).right x
```
Comment (IvanRenison) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]:
```suggestion
  (T.isPositive_iff.mp hT).right x
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 2]
```diff
@@ -46,6 +46,145 @@ variable [InnerProductSpace 𝕜 E] [InnerProductSpace 𝕜 F]
...
+  exact add_nonneg (hT.re_inner_nonneg_left x) (hS.re_inner_nonneg_left x)
+
+open ComplexOrder in
+@[aesop safe apply]
+theorem IsPositive.smul_of_nonneg {T : E →ₗ[𝕜] E} (hT : T.IsPositive) {c : 𝕜} (hc : 0 ≤ c) :
+    (c • T).IsPositive := by
+  have hc' : starRingEnd 𝕜 c = c := by
+    simp [conj_eq_iff_im, ← (le_iff_re_im.mp hc).right]
+  apply And.intro
+  · exact IsSymmetric.smul hc' hT.left
```
Comment (IvanRenison) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]:
```suggestion
  · exact hT.left.smul hc'
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 3]
```diff
@@ -46,6 +46,145 @@ variable [InnerProductSpace 𝕜 E] [InnerProductSpace 𝕜 F]
...
+instance instLoewnerPartialOrder : PartialOrder (E →ₗ[𝕜] E) where
+  le f g := (g - f).IsPositive
+  le_refl _ := by simp
+  le_trans _ _ _ h₁ h₂ := by simpa using h₁.add h₂
+  le_antisymm f₁ f₂ h₁ h₂ := by
+    rw [← sub_eq_zero, ← h₂.isSymmetric.inner_map_self_eq_zero]
+    intro x
+    have hba2 := h₁.2 x
+    rw [← neg_le_neg_iff, ← map_neg, ← inner_neg_left,
+      ← LinearMap.neg_apply, neg_sub, neg_zero] at hba2
```
Comment (IvanRenison) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]:
```suggestion
    rw [← neg_le_neg_iff, ← map_neg, ← inner_neg_left, ← neg_apply, neg_sub, neg_zero] at hba2
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 4]
```diff
@@ -69,13 +208,28 @@ theorem IsPositive.re_inner_nonneg_left {T : E →L[𝕜] E} (hT : IsPositive T)
...
     0 ≤ re ⟪x, T x⟫ := by rw [inner_re_symm]; exact hT.re_inner_nonneg_left x
 
+omit [CompleteSpace E] in
+lemma _root_.LinearMap.isPositive_toContinuousLinearMap_iff
+    [FiniteDimensional 𝕜 E] (T : E →ₗ[𝕜] E) :
+    have : CompleteSpace E := FiniteDimensional.complete 𝕜 _
+    T.toContinuousLinearMap.IsPositive ↔ T.IsPositive := by
+  intro
+  simp_rw [IsPositive, LinearMap.IsPositive,
+    ContinuousLinearMap.reApplyInnerSelf, ContinuousLinearMap.isSelfAdjoint_iff_isSymmetric]
```
Comment (IvanRenison) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]:
```suggestion
  simp_rw [IsPositive, LinearMap.IsPositive, reApplyInnerSelf, isSelfAdjoint_iff_isSymmetric]
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 5]
```diff
@@ -69,13 +208,28 @@ theorem IsPositive.re_inner_nonneg_left {T : E →L[𝕜] E} (hT : IsPositive T)
...
+  rfl
+
+lemma isPositive_toLinearMap_iff (T : E →L[𝕜] E) :
+    (T : E →ₗ[𝕜] E).IsPositive ↔ T.IsPositive := by
+  rw [LinearMap.IsPositive, ContinuousLinearMap.coe_coe, ContinuousLinearMap.IsPositive,
+    ← ContinuousLinearMap.isSelfAdjoint_iff_isSymmetric]
```
Comment (IvanRenison) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]:
```suggestion
  rw [LinearMap.IsPositive, coe_coe, IsPositive, ← isSelfAdjoint_iff_isSymmetric]
```

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 6]
```diff
@@ -69,18 +193,30 @@ theorem IsPositive.re_inner_nonneg_left {T : E →L[𝕜] E} (hT : IsPositive T)
...
+    T.toContinuousLinearMap.IsPositive ↔ T.IsPositive := by
+  simp_rw [IsPositive, LinearMap.IsPositive, reApplyInnerSelf, isSelfAdjoint_iff_isSymmetric]
+  rfl
+
+lemma isPositive_toLinearMap_iff (T : E →L[𝕜] E) :
+    (T : E →ₗ[𝕜] E).IsPositive ↔ T.IsPositive := by
+  rw [LinearMap.IsPositive, coe_coe, IsPositive, ← isSelfAdjoint_iff_isSymmetric]
+  rfl
+
+alias ⟨_, IsPositive.isPositive_toLinearMap⟩ := isPositive_toLinearMap_iff
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]:
```suggestion
alias ⟨_, IsPositive.toLinearMap⟩ := isPositive_toLinearMap_iff
```

File: Mathlib/Analysis/InnerProductSpace/Symmetric.lean [hunk 7]
```diff
@@ -97,6 +97,9 @@ theorem IsSymmetric.smul {c : 𝕜} (hc : conj c = c) {T : E →ₗ[𝕜] E} (hT
   intro x y
   simp only [smul_apply, inner_smul_left, hc, hT x y, inner_smul_right]
 
+theorem IsSymmetric.natCast (n : ℕ) : IsSymmetric (n : E →ₗ[𝕜] E) := fun x y => by
+  simp [← Nat.cast_smul_eq_nsmul 𝕜, inner_smul_left, inner_smul_right]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Symmetric.lean:101]: How about an `intCast` version too?

**Review by j-loreaux — COMMENTED** [review]
This seems like a strictly positive change, pun intended!

**Comment by themathqueen** [comment]
-awaiting-author

**Comment by j-loreaux** [comment]
Thanks!

bors merge
